US06696473B2
Preparation of 4-Ethylamino-3-[5-(3-methyl-4,5,6,7-tetrahydro-3H-benzothiazol-2-ylidene)-4-oxo-3-pyridin-3-ylmethylthiazolidin-2-ylideneamino]benzonitrile
The title compound was prepared in a manner similar to Example 168 by condensing intermediate 3-methyl-2-methylthio-4,5,6,7-tetrahydrobenzothiazol-3-ium p-toluenesulfonate with 4-ethylamino-3-(4-oxo-3-pyridin-3-ylmethylthiazolidin-2-ylideneamino)benzonitrile. MS(ESI): 503 (MH+).

reactant | 3-methyl-2-methylthio-4,5,6,7-tetrahydrobenzothiazol-3-ium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1=C(SC2=C1CCCC2)SC
reactant | 4-ethylamino-3-(4-oxo-3-pyridin-3-ylmethylthiazolidin-2-ylideneamino)benzonitrile | C(C)NC1=C(C=C(C#N)C=C1)N=C1SCC(N1CC=1C=NC=CC1)=O | C18H17N5OS
product | 4-Ethylamino-3-[5-(3-methyl-4,5,6,7-tetrahydro-3H-benzothiazol-2-ylidene)-4-oxo-3-pyridin-3-ylmethylthiazolidin-2-ylideneamino]benzonitrile | C(C)NC1=C(C=C(C#N)C=C1)N=C1SC(C(N1CC=1C=NC=CC1)=O)=C1SC2=C(N1C)CCCC2 | C26H26N6OS2
